US08008481B2
A mixture of 2-amino-4-(1H-indazol-5-ylamino)-thieno[2,3-d]pyrimidine-6-carboxylic acid methyl ester (Example #N.7.1, 0.050 g, 0.15 mmol) and ammonia (ca. 7N in methanol, 1.0 mL) was heated at about 60° C. in a sealed vessel for about 1.5 hours. The mixture was allowed to cool to ambient temperature and additional ammonia (ca. 7N in methanol, 5.0 mL) was added. The reaction mixture was then heated at about 75° C. for about 18 hours, cooled to ambient temperature, additional ammonia (ca. 7N in methanol, 2.0 mL) was added, and heating at about 75° C. was continued for about another 3 days. The mixture was concentrated under reduced pressure and the residue was purified by preparative HPLC (Thermo Hypersil-Keystone 250×21.2 mm 8μ Hypersil® HS C18 column; 5% CH3CN/50 mM aqueous ammonium acetate hold for 5 min, 5-100% CH3CN/50 mM aqueous ammonium acetate over 30 min, hold at 100% CH3CN for 5 minutes, 21 mL/min) to give 2-amino-4-(1H-indazol-5-ylamino)-thieno[2,3-d]pyrimidine-6-carboxylic acid amide (0.015 g, 31%) as a beige solid; RP-HPLC (Table 1, Method a) Rt 0.68 min, m/z (ESI+) 325.9 (M+H)+.

reactant | 2-amino-4-(1H-indazol-5-ylamino)-thieno[2,3-d]pyrimidine-6-carboxylic acid methyl ester | 0.15 mmol, 0.050 g | COC(=O)C1=CC2=C(N=C(N=C2NC=2C=C3C=NNC3=CC2)N)S1 | C15H12N6O2S
reactant | ammonia | ca. 7N, 1.0 mL | N | H3N
reactant | ammonia | ca. 7N, 5.0 mL | N | H3N
reactant | ammonia | ca. 7N, 2.0 mL | N | H3N
product | 2-amino-4-(1H-indazol-5-ylamino)-thieno[2,3-d]pyrimidine-6-carboxylic acid amide | 0.015 g, 31% | NC=1N=C(C2=C(N1)SC(=C2)C(=O)N)NC=2C=C1C=NNC1=CC2 | C14H11N7OS
